US03980788
A mixture of 1.0 g. of 1-(9-xanthenyl)-3-methylaminopiperidine and 2.0 g. of triethylamine in 25 ml. of dry chloroform is treated at 0°C. with 0.5 g. of acetic anhydride in 2 ml. of dry chloroform. The mixture is refluxed with stirring for two hours and then poured into ice water. The chloroform layer is washed with water, dried over potassium carbonate, and the solvent is removed in vacuo to give 1-(9-xanthenyl)-3-(N-acetyl-N-methylamino)-piperidine.

reactant | 1-(9-xanthenyl)-3-methylaminopiperidine | C1=CC=CC=2OC3=CC=CC=C3C(C12)N1CC(CCC1)NC | C19H22N2O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(9-xanthenyl)-3-(N-acetyl-N-methylamino)-piperidine | C1=CC=CC=2OC3=CC=CC=C3C(C12)N1CC(CCC1)N(C)C(C)=O | C21H24N2O2
